US04962146
Desmycosin (Merck Index, Tenth Edition p. 1405) (18.9 o) was dissolved in degassed benzene (580 mL) and tris(triphenYlphospbine)rhodium chloride (29.5 g.) was added. The mixture was heated under dry nitrogen at 90° C. for 16 h. The mixture was diluted with ethyl acetate and extracted twice with 0.2N hydrochloric acid. The aqueous acid layer was adjusted to pH 10 and extracted with dichloromethane. The latter was dried (MgSO4), filtered and evaporated to dryness. The residue was chromatographed on a silica gel column (60×5 cm.) using 5% methanol in chloroform (v/v) as the eluant to give 19deformyldesmycosin (13.2 g., 73%) as a colorless amorphous solid (Anal.: found: C, 57.05; H, 7.99; N, 1.62%. C38H65NO13. 0.5 CHCl3 requires C, 56.79; H, 8.15; N, 1.74%); MS: m/z 744 (MH+); Rotation: [α]D26 0° (CHCl3); UV: λmax (CH3OH) 282 nm (ε20,676); IR: νmax (CDCl3) 3540, 3450, 1705, 1670, 1590, 1185, 1163, 1055 cm-1 ; 1H-NMR: δH (CDCl3) 0.92 (3H,tJ16,17-CH3 7 Hz, 17-CH3), 1.02 (3H,d,J 7 Hz, CH3), 1.03 (3 H,d,J 7 Hz, CH3), 1.18 (3H,d,J 7 Hz, CH3), 1.26 (3H,d,J 7 Hz, CH3), 1.30 (3H,d,J 7 Hz, CH3), 1.78 (3H,d,J12 -CH3,13 1 Hz, 12-CH3), 2.53 (6H,s,3'-N(CH3)2), 3.48 (3H,s,2"-OCH3), 3.60 (3H,s,3"-OCH3), 4.28 (1H,d,J1'ax,2'ax 8 Hz, H1'ax), 4.55 (1H,d,J1"ax,2"ax 8 Hz, H1"ax), 4.97 (1H,m,H15), 5.82 (1H,dc,J12-CH3,13 1 Hz, J13,14 10 Hz, H13), 6.24 (1H,d,J10,11 16 Hz, H10), and 7.24 (1H,d,J10,11 16 Hz, H11)

reactant | Desmycosin | CC[C@@H]1[C@H](/C=C(/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O)N(C)C)O)CC=O)C)\C)CO[C@H]3[C@@H]([C@@H]([C@@H]([C@H](O3)C)O)OC)OC | C39H65NO14
solvent | benzene | 580 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 19deformyldesmycosin | 13.2 g, 73% | CCC1C(/C=C(\C=C\C(=O)C(CC(C(C(C(CC(=O)O1)O)C)OC2C(C(C(C(O2)C)O)N(C)C)O)C)C)/C)COC3C(C(C(C(O3)C)O)OC)OC | C38H65NO13
